US05866568
A stirred mixture of 1,1'-bis(diphenylphosphino)ferrocene (0.532 g) and palladium (II) acetate (0.162 g) in deoxygenated toluene (95 ml) was heated at 50° C. under argon for 30 minutes then cooled to ambient temperature. 2-Chloro-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (10 g), 4-cyanophenylboronic acid (8.47 g), potassium fluoride (8.37 g) and water (95 ml) were added and the resultant mixture was stirred and heated under reflux for 8 hours then cooled. Water (100 ml) was added and the mixture was extracted with ethyl acetate (100 ml) then filtered through diatomaceous earth. The aqueous layer was separated and extracted further with ethyl acetate (2×100 ml). The organic extracts were combined, washed with aqueous sodium carbonate (100 ml of a 2M solution) and water (100 ml) then treated with charcoal and dried (MgSO4). Volatile material was removed by evaporation and the residue was recrystallised from ether/isohexane to give 2-(4-cyanophenyl)-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide (9.58 g) as a solid, 1H NMR (DMSO-d6): 0.6 (d, 6 H), 1.6 (m, 1 H), 2.6 (s, 3 H), 3.8 (d, 2 H), 4.0 (s, 3 H), 7.7 (d, 2 H), 7.9 (m, 3 H), 8.2 (s, 1 H), 8.9 (d, 1 H), 9.0 (d, 1 H); mass spectrum (+ve ESP): 482 (M+H)+.

reactant | 2-Chloro-N-(isobutoxycarbonyl)-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 10 g | ClC1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C16H19ClN4O5S
reactant | 4-cyanophenylboronic acid | 8.47 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | potassium fluoride | 8.37 g | [F-].[K+]
reactant | water | 95 ml | O | H2O
reactant | Water | 100 ml | O | H2O
solvent | toluene | 95 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 1,1'-bis(diphenylphosphino)ferrocene | 0.532 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium (II) acetate | 0.162 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(4-cyanophenyl)-N-isobutoxycarbonyl-N-(3-methoxy-5-methylpyrazin-2-yl)pyridine-3-sulphonamide | 9.58 g | C(#N)C1=CC=C(C=C1)C1=NC=CC=C1S(=O)(=O)N(C1=NC=C(N=C1OC)C)C(=O)OCC(C)C | C23H23N5O5S
